US08138339B2
2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-((1-acetylpiperidin-4-yl)methylamino)pyrimidine-5-carboxamide
To a solution of 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)pyrimidine-5-carboxamide (22 mg, 0.049 mmol) and triethylamine (0.040 mL, 0.29 mmol) in acetonitrile (2 mL) at room temperature, acetic anhydride (0.020 mL, 0.21 mmol) was added. The solution was stirred at room temperature for 1 h. The mixture was then purified by HPLC to give the titled compound (8 mg). MS 495.41 (M+H).

reactant | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)pyrimidine-5-carboxamide | 0.049 mmol, 22 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1CCNCC1)C(=O)N | C23H32N8O2
reactant | triethylamine | 0.29 mmol, 0.040 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.21 mmol, 0.020 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-((1-acetylpiperidin-4-yl)methylamino)pyrimidine-5-carboxamide | 8 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1CCN(CC1)C(C)=O)C(=O)N | C25H34N8O3
